datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>CC(C)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"CCCCCCCCCCCC[N:10](CC(C)O)CC(C)O.CCCC[N+:21](CC[S-])(CCCC)[H:20]>>CCCCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].CCCC[N:21](CC[S-])CCCC 10=20;20,21=21",
"CC(O)C[N:10](C)CCO.Cc1ccc([O:21][H:20])cc1[N+](C)(C)C>>CC(O)C[N+:10](C)(CCO)[H:20].Cc1ccc([O-:21])cc1[N+](C)(C)C 10=20;20,21=21",
"Cc1n[n+:21]([H:20])c2c(c1C)CCC2.c1c(CN2CC[NH2+]CC[NH2+]CC2)n[nH]c1CN1CC[NH2+]CC[NH:10]CC1>>Cc1n[n:21]c2c(c1C)CCC2.c1c(CN2CC[NH2+]CC[NH2+]CC2)n[nH]c1CN1CC[NH2+]CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CC(C)CS(=O)[O:21][H:20].O=[N+]([O-])c1cc[n+]([O-:10])cc1>>CC(C)CS(=O)[O-:21].O=[N+]([O-])c1cc[n+]([O:10][H:20])cc1 10=20;20,21=21",
"C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:10]1)C(=O)[O-].C[C@]1([NH2+:21][H:20])C[C@@H]1N>>C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-].C[C@]1([NH2:21])C[C@@H]1N 10=20;20,21=21",
"Cc1n(C)c2ccc(N)cc2[n+:21]1[H:20].Cn1nn[n:10]c1N>>Cc1n(C)c2ccc(N)cc2[n:21]1.Cn1nn[n+:10]([H:20])c1N 10=20;20,21=21",
"CCC(C)(O)C(C(=O)[O-:10])c1ccc(-c2ccccc2)cc1.Cc1[nH+]cc[n+:21]([H:20])c1C>>CCC(C)(O)C(C(=O)[O:10][H:20])c1ccc(-c2ccccc2)cc1.Cc1[nH+]cc[n:21]c1C 10=20;20,21=21",
"NC(=O)Nc1ncnc2nc[n-:10]c12.c1cc([O:21][H:20])c2[nH]ncc2c1>>NC(=O)Nc1ncnc2nc[n:10]([H:20])c12.c1cc([O-:21])c2[nH]ncc2c1 10=20;20,21=21",
"CCCCNC(=O)[N:21](S(=O)(=O)c1ccc(C)cc1)[H:20].Nc1ccc2[nH]c(Cc3ccccc3)[n:10]c2c1>>CCCCNC(=O)[N-:21]S(=O)(=O)c1ccc(C)cc1.Nc1ccc2[nH]c(Cc3ccccc3)[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC(C)[NH:10]CC(O)c1cccc(F)c1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)[NH+:10](CC(O)c1cccc(F)c1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C1C[C@H](C(=O)O)[C@@H](C(=O)[O-:10])O1.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:21][H:20]>>O=C1C[C@H](C(=O)O)[C@@H](C(=O)[O:10][H:20])O1.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:21] 10=20;20,21=21",
"CC(O)C[NH:10]CCO.O=C(c1cccc(F)c1)[O:21][H:20]>>CC(O)C[NH+:10](CCO)[H:20].O=C(c1cccc(F)c1)[O-:21] 10=20;20,21=21",
"CC[NH2+]CCCC(=O)[O-:10].Cc1cc([N+](=O)[O-])ccc1N[N+:21](=C(C#N)C#N)[H:20]>>CC[NH2+]CCCC(=O)[O:10][H:20].Cc1cc([N+](=O)[O-])ccc1N[N:21]=C(C#N)C#N 10=20;20,21=21",
"CC(=O)[C@H]1CC=CC[C@@H]1C(=O)[O-:10].Cc1n[nH]c2c(N)nc[n+:21]([H:20])c12>>CC(=O)[C@H]1CC=CC[C@@H]1C(=O)[O:10][H:20].Cc1n[nH]c2c(N)nc[n:21]c12 10=20;20,21=21",
"CC(=O)O[O-:10].CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N+:21]2(CC)[H:20])c1[O-]>>CC(=O)O[O:10][H:20].CCc1cc(Cl)c(OC)c(C(=O)NCC2CCC[N:21]2CC)c1[O-] 10=20;20,21=21",
"CC(C)C[NH:10]C(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(C)C[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"NNC(=O)C(Cc1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NNC(=O)C(Cc1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Brc1cccc[n+:21]1[H:20].Nc1ccc(/C=C/c2cc(N)c3ccccc3[n:10]2)cc1>>Brc1cccc[n:21]1.Nc1ccc(/C=C/c2cc(N)c3ccccc3[n+:10]2[H:20])cc1 10=20;20,21=21",
"Cc1nc2c(n1C)[N:21]([H:20])C(=O)NC2=O.OC[C@H]1CCC[N:10]2CCCC[C@@H]12>>Cc1nc2c(n1C)[N-:21]C(=O)NC2=O.OC[C@H]1CCC[N+:10]2([H:20])CCCC[C@@H]12 10=20;20,21=21",
"Cc1cccn[n+:21]1[H:20].[NH3+]Nc1c2ccccc2cn[n:10]1>>Cc1cccn[n:21]1.[NH3+]Nc1c2ccccc2cn[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)c1ccc[n+:21]([H:20])c1.CN(C1=[N:10]CCO1)c1ccccc1>>CC(C)c1ccc[n:21]c1.CN(C1=[N+:10]([H:20])CCO1)c1ccccc1 10=20;20,21=21",
"C[NH:10]CCCNC(=O)/C=N/[O-].O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](CCCNC(=O)/C=N/[O-])[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"Cc1n[nH]c2cc([NH2+:21][H:20])ccc12.c1ccc2c([NH2:10])cccc2c1>>Cc1n[nH]c2cc([NH2:21])ccc12.c1ccc2c([NH2+:10][H:20])cccc2c1 10=20;20,21=21",
"CC[NH+:21](CC)[H:20].c1cc([N:10]2CCCCC2)ccc1N1CCCCC1>>CC[NH:21]CC.c1cc([N+:10]2([H:20])CCCCC2)ccc1N1CCCCC1 10=20;20,21=21",
"O=C([O-])Cc1nnn[n:21]1[H:20].[NH3+]C(CCC(=O)[O-:10])C(=O)[O-]>>O=C([O-])Cc1nnn[n-:21]1.[NH3+]C(CCC(=O)[O:10][H:20])C(=O)[O-] 10=20;20,21=21",
"[NH3+]C(Cc1ccccc1)c1nnn[n-:10]1.c1c[nH+]c2ccc3c(ccc[n+:21]3[H:20])c2c1>>[NH3+]C(Cc1ccccc1)c1nnn[n:10]1[H:20].c1c[nH+]c2ccc3c(ccc[n:21]3)c2c1 10=20;20,21=21",
"C[C@H]1C[C@@H]2CCC[C@@H]2[N:10]1C.O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O:21][H:20]>>C[C@H]1C[C@@H]2CCC[C@@H]2[N+:10]1(C)[H:20].O=C([C@]1(Cl)[C@@H]2CCC[C@@H]21)[O-:21] 10=20;20,21=21",
"CC1C[N:10]2CCC1CC2.Clc1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1>>CC1C[N+:10]2([H:20])CCC1CC2.Clc1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1 10=20;20,21=21",
"C[N+]1(CC(=O)[O:21][H:20])CCCCC1.Cc1ccc([N-:10]C(=S)c2cccc(Br)c2)cc1>>C[N+]1(CC(=O)[O-:21])CCCCC1.Cc1ccc([N:10](C(=S)c2cccc(Br)c2)[H:20])cc1 10=20;20,21=21",
"CC1=CC(c2ccccc2)=NN(CCN2CCOCC2)/C1=[NH+:21]\[H:20].Cc1ccccc1[NH:10]C(C)(C)C>>CC1=CC(c2ccccc2)=NN(CCN2CCOCC2)C1=[NH:21].Cc1ccccc1[NH+:10](C(C)(C)C)[H:20] 10=20;20,21=21",
"C=CCN(CC=C)CCC[N:10](CC=C)CC=C.C=CC[NH+:21](CCCCCCCCCCC(=O)[O-])[H:20]>>C=CCN(CC=C)CCC[N+:10](CC=C)(CC=C)[H:20].C=CC[NH:21]CCCCCCCCCCC(=O)[O-] 10=20;20,21=21",
